US06002008
6-Amino-4-[(3-methylsulfanylphenyl)amino]-3-quinolinecarbonitrile
A mixture of 4.55 g (13.5 mmol) 4-[(3-methylsulfanylphenyl)amino]-6-nitro-3-quinolinecarbonitrile, 250 ml ethanol, 0.46 g 10% palladium on carbon, and 1.06 ml (33.8 mmol) anhydrous hydrazine was heated to reflux. At 4 hours, added 0.5 equivalents of hydrazine, and at 5 hours, filtered the hot mixture through celite. Stripped the solvent and dried in vacuo, giving 4.068 g brown solid: mass spectrum (electrospray m/e): M+H=307.1.

reactant | 4-[(3-methylsulfanylphenyl)amino]-6-nitro-3-quinolinecarbonitrile | 13.5 mmol, 4.55 g | CSC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C17H12N4O2S
reactant | hydrazine | 33.8 mmol, 1.06 ml | NN | H4N2
reactant | hydrazine | 0.5 equivalents | NN | H4N2
catalyst | palladium on carbon | 0.46 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3-methylsulfanylphenyl)amino]-3-quinolinecarbonitrile | 4.068 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)SC | C17H14N4S
